US04099000
A mixture of p-methoxybenzyl 7α-azido-3-methanesulfonyloxy-3-methyl-cepham-4-carboxylate (210 mg., 0.46 mMol), EM silica gel 60 (2.5 g.), and 3:1 PhH-EtOAc (5 ml.) is stirred in a capped flask at room temperature for 93 hrs. The mixture is diluted with EtOAc and filtered. The silica gel is washed with more EtOAc. The filtrate and washings are combined, washed with 5% NaHCO3 and brine, dried with MgSO4, filtered, and evaporated in vacuo to a pale yellow oil (158 mg.). The material is purified by plc on a 1000μ × 20 × 20 cm silica gel GF plate using 9:1 PhH-EtOAc as developing solvent. Two major uv visible bands are removed and eluted with EtOAc to yield the products. Band A (Rf 0.47) provides p-methoxybenzyl 7α-azido-3-methyl-ceph-3-em-4-carboxylate (51 mg.) as an oil. Band B (Rf 0.26) yields 6α-azido-2-methyl-2-hydroxymethyl-penam-3-carboxylic acid lactone (27 mg.) as an oil which crystallizes from CHCl3 : mp 164°-166° C. (micro hot stage); ir (Nujol) 4.76, 5.57, 5.67, 7.74, 8.32, and 9.79μ; nmr (100 MHz, DMSO-d6) δ1.59 (s, 3, CH3), 4.30 and 4.52 (ABq, 2, J=10Hz, CH2O), 5.20 (d, l, J=1.8Hz, H5 or H6), 5.28 (s, l, H3) and 5.29 (d, l, J=1.8Hz, H6 or H5); mass spectrum, m/e 240 (M+), 212, and 157.

reactant | p-methoxybenzyl 7α-azido-3-methanesulfonyloxy-3-methyl-cepham-4-carboxylate | 0.46 mMol, 210 mg | N(=[N+]=[N-])[C@@H]1[C@@H]2N(C(C(CS2)(C)OS(=O)(=O)C)C(=O)OCC2=CC=C(C=C2)OC)C1=O | C17H20N4O7S2
reactant | PhH EtOAc | 5 ml | C1=CC=CC=C1.CCOC(=O)C
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | p-methoxybenzyl 7α-azido-3-methyl-ceph-3-em-4-carboxylate | 51 mg | N(=[N+]=[N-])[C@@H]1[C@@H]2N(C(=C(CS2)C)C(=O)OCC2=CC=C(C=C2)OC)C1=O | C16H16N4O4S
